US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with ethyl 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 65% yield: MS (ES+) m/z 298.3 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | ethyl 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CCCCC)=O | C15H23N3O3S
product | 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)thiazole-5-carboxylic acid | 65% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCCCC)=O | C13H19N3O3S
